US09120744B2
N-((3,4-dimethoxyphenyl)sulfonyl)-N-octylbenzamide.
To a stirring solution of N-octyl-3,4-dimethoxybenzenesulfonamide (0.213 g, 0.646 mmol) in 2.00 mL of DMF, NaH (0.028 g, 0.711 mmol; 60% in oil dispersion) was added. After 30 min, benzoyl chloride (0.085 g, 0.731 mmol) was added. After a further 1 hr, the reaction mixture was diluted with 4:1 EtOAc/hexanes and washed with water (2×). The organic layer was dried over MgSO4 and concentrated in vacuo to yield a yellow solid. Purification by flash chromatography (28% ethyl acetate/hexanes) gave 0.040 g (18%) of the title compound as a clear oil.

reactant | N-octyl-3,4-dimethoxybenzenesulfonamide | 0.646 mmol, 0.213 g | C(CCCCCCC)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC | C16H27NO4S
reactant | NaH | 0.711 mmol, 0.028 g | [H-].[Na+]
reactant | benzoyl chloride | 0.731 mmol, 0.085 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | DMF | 2.00 mL | CN(C)C=O | C3H7NO
product | N-((3,4-dimethoxyphenyl)sulfonyl)-N-octylbenzamide | 0.040 g, 18% | COC=1C=C(C=CC1OC)S(=O)(=O)N(C(C1=CC=CC=C1)=O)CCCCCCCC | C23H31NO5S
